US05045541
To a mixture of 116 g of 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one and 1.2 l of acetic acid is added 116 ml of 30% hydrobromic acid--acetic acid. While the solution is heated to 50° C., a solution of 48 g of hydrobromic acid and 200 ml of acetic acid is added dropwise over the period of 30 minutes. After the completion of the dropwise addition, the mixture is stirred for further 30 minutes. The solvent is distilled off under reduced pressure. Water and ethyl acetate are added to the residue, and the mixture is rendered alkaline with potassium carbonate. The ethyl acetate layer is separated, washed with water and extracted with an aqueous solution of hydrochloric acid. The hydrochloric acid layer is rendered alkaline with potassium carbonate, and the resultant oily substance is dissolved in ethyl acetate, which is washed with water and dried over magnesium sulfate. The solvent is distilled off under reduced pressure. Ethanol and fumaric acid are added to the residue to convert it into its salt. The resultant crystals are collected by filtration and recrystallized from water--ethanol to give 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-5,6-dihydrobenzo[h]cinnolin-3(2H)-one.fumarate, m.p. 178°-180° C.

reactant | 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 116 g | FC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)OCC(C)N(C)C)=O)C=C1 | C23H26FN3O2
reactant | hydrobromic acid | 116 ml | Br | BrH
reactant | hydrobromic acid | 48 g | Br | BrH
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.2 l | C(C)(=O)O | C2H4O2
product | 9-fluoro-2-[4-(2-dimethylaminopropoxy)phenyl]-5,6-dihydrobenzo[h]cinnolin-3(2H)-one | FC1=CC2=C(CCC3=CC(N(N=C23)C2=CC=C(C=C2)OCC(C)N(C)C)=O)C=C1 | C23H24FN3O2
